US06399629B1
(D) trans-4-Amino-1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-L-Proline Methyl Ester
10% Palladium on activated carbon (75 mg) was added to a solution of trans-4-azido-1-(N-tert-butoxycarbonyl-N-methylglycyl)-L-proline methyl ester (C, 0.75 g) in methanol (50 mL), and the mixture was stirred under a hydrogen atmosphere at room temperature for 16 hr. After the catalyst were removed by filtration, the filtrate was evaporated in vacuo to afford the title compound (0.54 g).

reactant | trans-4-azido-1-(N-tert-butoxycarbonyl-N-methylglycyl)-L-proline methyl ester | 0.75 g | COC([C@H]1N(C[C@@H](C1)N=[N+]=[N-])C(CN(C)C(=O)OC(C)(C)C)=O)=O | C14H23N5O5
catalyst | Palladium on activated carbon | 75 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | trans-4-Amino-1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-L-Proline Methyl Ester | 0.54 g | COC([C@H]1N(C[C@@H](C1)N)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C14H25N3O5
